US06316637B1
A solution of 2,4-dinitro-6-bromoaniline (2.0 g, 7.6 mmol), tetrabutyltin (5.3 ml, 15.2 mmol) and Cl2Pd(PPh3)2 (100 mg) in 10 ml of DMF was stirred at 140° C. for 12 h. Reaction mixture was concentrated in vacuo, yielding an oil which was purified on silica gel column chromatography (CH2Cl2, neat) to provide 0.50 g (2.0 mmol, 27%) of 2,4-dinitro-6-butylaniline, which was converted to the diamine (0.38 g, >95%) on hydrogenation (H2/Pd—C).

reactant | 2,4-dinitro-6-bromoaniline | 7.6 mmol, 2.0 g | [N+](=O)([O-])C1=C(N)C(=CC(=C1)[N+](=O)[O-])Br | C6H4BrN3O4
reactant | tetrabutyltin | 15.2 mmol, 5.3 ml | C(CCC)[Sn](CCCC)(CCCC)CCCC
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 2,4-dinitro-6-butylaniline | 2.0 mmol, 0.50 g, 27% | [N+](=O)([O-])C1=C(N)C(=CC(=C1)[N+](=O)[O-])CCCC | C10H13N3O4
